US05543409
Under ice cooling, 3.0 g of acryloyl chloride dissolved in 50 ml of tetrahydrofuran was added dropwise to a suspension of 5.03 g of 2-amino-5-[pyridazin-3(2H)-on-6-yl]indane·hydrobromide in 150 ml of ethyl acetate and 150 ml of water containing 4.52 g of potassium carbonate, and the mixture was stirred for 3 hours. Crystals precipitated were collected by filtration, washed with water, dried and then recrystallized from methanol-acetonitrile to obtain 3.69 g of 2-acryloylamino-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | acryloyl chloride | 3.0 g | C(C=C)(=O)Cl | C3H3ClO
reactant | 2-amino-5-[pyridazin-3(2H)-on-6-yl]indane·hydrobromide | 5.03 g | NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O.Br
reactant | water | 150 ml, 4.52 g | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-acryloylamino-5-[pyridazin-3(2H)-on-6-yl]indane | 3.69 g | C(C=C)(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C16H15N3O2
